US04639441
p-Nitrobenzyl 2-(4-bromo-2-azetidinon-1-yl)-2-(4-hydroxy-1,3-dithiolan-2-ylidene)acetate
p-Nitrobenzyl 2-(4-hydroxy-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate (121 mg) was dissolved in tetrahydrofuran (1 ml). A solution of bromine (45.2 mg) in carbon tetrachloride was added dropwise to the resulting solution, with ice cooling. The mixture was stirred at that temperature for 10 minutes and then the solvent was distilled off under reduced pressure and the resulting residue was purified by column chromatography (eluent: a 1:1 by volume mixture of benzene and ethyl acetate), to give 130 mg of the desired product.

reactant | p-Nitrobenzyl 2-(4-hydroxy-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate | 121 mg | OC1SC(SC1)=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC)=O | C16H16N2O6S3
reactant | bromine | 45.2 mg | BrBr | Br2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-Nitrobenzyl 2-(4-bromo-2-azetidinon-1-yl)-2-(4-hydroxy-1,3-dithiolan-2-ylidene)acetate | 130 mg | BrC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C1SCC(S1)O)=O | C15H13BrN2O6S2
